US07759337B2
To a solution of N,N-diisopropyl 2-formyl-4-(2-methylphenyl)benzamide (5.45 g, 12 mmol) in acetic acid (15 mL) was added anhydrous hydrazine (0.56 mL, 18 mmol). The resulting solution was then heated at 110° C. for 16 h. The reaction mixture was cooled to RT, and the volatiles removed in vacuo. The residue was diluted with ethyl acetate (150 mL) and washed with saturated aqueous solution of sodium bicarbonate, and brine. The resulting organic solution was then dried over magnesium sulfate and concentrated under reduced pressure to give 6-o-tolylphthalazin-1-ol as a yellow solid. MS (ESI, pos.ion) m/z: 237.2 (M+1)

reactant | N,N-diisopropyl 2-formyl-4-(2-methylphenyl)benzamide | 12 mmol, 5.45 g | C(C)(C)N(C(C1=C(C=C(C=C1)C1=C(C=CC=C1)C)C=O)=O)C(C)C | C21H25NO2
reactant | hydrazine | 18 mmol, 0.56 mL | NN | H4N2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 6-o-tolylphthalazin-1-ol | C1(=C(C=CC=C1)C=1C=C2C=NN=C(C2=CC1)O)C | C15H12N2O
